US07291642B2
Analogously to 13b), N-cyclopropyl-4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}butyramide was prepared from 0.84 g (1.70 mmol) of N-[2-(4-cyanophenyl)ethyl]-N-cyclopropyl-4-[(2,3-dichlorobenzenesulphonyl)methylamino]butyramide, 0.143 g (4.46 mmol) of sulphur and 3 ml of ethylenediamine.

reactant | N-[2-(4-cyanophenyl)ethyl]-N-cyclopropyl-4-[(2,3-dichlorobenzenesulphonyl)methylamino]butyramide | 1.70 mmol, 0.84 g | C(#N)C1=CC=C(C=C1)CCN(C(CCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)=O)C1CC1 | C23H25Cl2N3O3S
reactant | sulphur | 4.46 mmol, 0.143 g | [S] | S
reactant | ethylenediamine | 3 ml | C(CN)N | C2H8N2
product | N-cyclopropyl-4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}butyramide | C1(CC1)N(C(CCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)=O)CCC1=CC=C(C=C1)C=1NCCN1 | C25H30Cl2N4O3S
